US07732460B2
(f) 8-Bromo-3,7-difluoro-2-(methyloxy)-1,5-naphthyridine
A solution of 1,1-dimethylethyl [2-[3-(dimethylamino)-2-fluoroacryloyl]-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate (2.15 g, 6.02 mmol) in trifluoroacetic acid/dichloromethane (20 ml/20 ml) was stirred at room temperature for 0.5 hour under argon and evaporated. The residue was treated with ˜50 ml 2M ammonia in methanol until basic and evaporated. This residue was dried in vacuo then chromatographed eluting with 0-10% methanol in ethyl acetate affording a solid (3.64 g), 8-hydroxy-3,7-difluoro-2-(methyloxy)-1,5-naphthyridine. 8-Hydroxy-3,7-difluoro-2-(methyloxy)-1,5-naphthyridine (3.64 g) was dissolved in N,N-dimethylformamide (20 ml) and treated with phosphorus tribromide (0.68 ml, 7.22 mmol). After 1 hour, more phosphorus tribromide (0.68 ml, 7.22 mmol) was added. After 0.5 hour the mixture was diluted with water and basified with solid potassium carbonate. Filtration and drying in vacuo afforded the product (0.95 g, 57%).

reactant | 1,1-dimethylethyl [2-[3-(dimethylamino)-2-fluoroacryloyl]-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate | 6.02 mmol, 2.15 g | CN(C=C(C(=O)C1=NC(=C(C=C1NC(OC(C)(C)C)=O)F)OC)F)C | C16H21F2N3O4
reactant | phosphorus tribromide | 7.22 mmol, 0.68 ml | P(Br)(Br)Br | Br3P
reactant | phosphorus tribromide | 7.22 mmol, 0.68 ml | P(Br)(Br)Br | Br3P
solvent | trifluoroacetic acid dichloromethane | 20 ml | FC(C(=O)O)(F)F.ClCCl
solvent | water | O | H2O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 8-Bromo-3,7-difluoro-2-(methyloxy)-1,5-naphthyridine | 0.95 g, 57% | BrC=1C(=CN=C2C=C(C(=NC12)OC)F)F | C9H5BrF2N2O
